US05484917
C. N-tert-butyl-2-[3-azido-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide
To a 250 ml round-bottomed flask equipped with N2 inlet were added N-tert-butyl-2-[3-bromo-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide, (8.317 g, 19.37 mmoles), 90 ml dimethylformamide (DMF), and sodium azide (5.25 g, 80 mmoles, under nitrogen), and the mixture was heated at 75° C. for 20 hours with stirring. The reaction mixture was then cooled and distributed between water and ethyl acetate, separated, and the aqueous phase was again extracted. The combined extracts were washed with water three times, with bicarbonate solution once, and then dried with brine and sodium sulfate and filtered and evaporated, leaving a gummy residue, 8.58 g (100%), containing some solvent.

reactant | N-tert-butyl-2-[3-bromo-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide | 19.37 mmoles, 8.317 g | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)Br)=O)=O | C22H25BrN2O2
reactant | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
reactant | sodium azide | 80 mmoles, 5.25 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert-butyl-2-[3-azido-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)N=[N+]=[N-])=O)=O | C22H25N5O2
